US05559113
4-[2-(4-Nitrophenoxy)ethyl]-1H-imidazole
2.09 mg (1.5 mmol) of 4-nitrophenol, 251 mg (1.4 mmol) of 4-[2-chloroethyl]-1H-imidazole hydrochloride, 475 mg (3 mmol) of potassium carbonate and sodium iodide (catalyst) are stirred at 80° C. for 5 days in 5 ml of dimethylformamide. The reaction mixture is cooled and 100 ml of diethyl ether are added. The precipitate is separated by filtration. The filtrate is evaporated under reduced pressure to give a residue which is subjected to column chromatography (using, as first eluent, chloroform and, as second eluent, a 9/10 chloroform/methanol mixture) to give the title compound which, after crystallization from methanol, melts at: 197°-200° C.

reactant | 4-nitrophenol | 1.5 mmol, 2.09 mg | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 4-[2-chloroethyl]-1H-imidazole hydrochloride | 1.4 mmol, 251 mg | Cl.ClCCC=1N=CNC1
reactant | potassium carbonate | 3 mmol, 475 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | [I-].[Na+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 4-[2-(4-Nitrophenoxy)ethyl]-1H-imidazole | [N+](=O)([O-])C1=CC=C(OCCC=2N=CNC2)C=C1 | C11H11N3O3
